US05401756
a) Preparation of 7-bromo-2-(3-pyridylmethyl)-1 (2H)-phthalazinone
The titled compound was prepared from 7-bromo-1 (2H)-phthalazinone and 3-chloromethylpyridine hydrochloride in the same manner as in Example 10 (1) a).

reactant | 7-bromo-1 (2H)-phthalazinone | BrC1=CC=C2C=NNC(C2=C1)=O | C8H5BrN2O
reactant | 3-chloromethylpyridine hydrochloride | Cl.ClCC=1C=NC=CC1
product | 7-bromo-2-(3-pyridylmethyl)-1 (2H)-phthalazinone | BrC1=CC=C2C=NN(C(C2=C1)=O)CC=1C=NC=CC1 | C14H10BrN3O
